US05578720
Loracarbef Hydrochloride 1-Propanaol solvate
Loracarbef methanolate (5 g) is added to 50 ml of 1-propanol and 1.34 ml of concentrated hydrochloride acid. The solution is stirred at room temperature for approximately 45 minutes and is stripped to solids and placed in the freezer, with large rhomboid crystals formed. The mixture is dried overnight at room temperature in a vacuum oven and the crystals yellowed. The weight yield is 5.16 grams and the X-ray diffraction pattern of the titled product above is as follows:

reactant | Loracarbef methanolate | 5 g | C=1C=CC(=CC1)[C@H](C(=O)N[C@H]2[C@H]3CCC(=C(N3C2=O)C(=O)O)Cl)N.C[O-]
reactant | hydrochloride | 1.34 ml | Cl | ClH
solvent | 1-propanol | 50 ml | C(CC)O | C3H8O
product | Loracarbef Hydrochloride | C=1C=CC(=CC1)[C@H](C(=O)N[C@H]2[C@H]3CCC(=C(N3C2=O)C(=O)O)Cl)N.Cl | InChI=1S/C16H16ClN3O4.ClH/c17-9-6-7-10-12(15(22)20(10)13(9)16(23)24)19-14(21)11(18)8-4-2-1-3-5-8;/h1-5,10-12H,6-7,18H2,(H,19,21)(H,23,24);1H/t10-,11-,12+;/m1./s1
